datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)[H].[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CCCCCC)[H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])=C([H])C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C(C)/C([H])=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C([H])=C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)/C(C)=C([H])\C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[O:10][H].C[O+:21]=[C:20]([S][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21]C)([S][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])C.[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])C 21=20;20,10=10"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C([H])[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([K])C([H])C(C)C(O)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(O)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]CC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[NH:10](C)C(CC)C(C)/C([H])=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C([H])C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[NH:10](C)C(CC)C(C)/C([H])=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C([H])C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O:10]C(C)C(O)=C1C>>[O-:10]C(C)/C(O)=C([C:20](OCC)=[O:21])/C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[OH:21][C:20]1(C)[OH+:10]C([H])C([H])=C1[H]>>[OH:10]C([H])/C([H])=C([C:20](C)=[OH+:21])/[H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)=C(C)C(C)C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C(C)/C(C)=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1C)([O-:10])[O:21]C)[H]>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C)[H].[O-:21]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C(C)=C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)/C([H])=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CC[O:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[Cl:21])C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[Cl-:21] 10=20;20,21=21"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C([H])C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])C)C)[O-:10])[H] 21=20;20,10=10"
